US04581415
Ethyl Diphenylphosphinite.
A solution of phenylphosphonous dichloride (66 g, 0.37 mol) in dry ether (100 mL) was treated dropwise with a solution of ethanol (21.6 mL, 0.37 mol) and pyridine (29.6 mL) was added slowly. The reaction mixture was filtered, washed with ether, and the ether evaporated to give an oil. The oil was distilled in the Kugelrohr and then through a short Vigreux column at 95°-98° C. (0.05 mmHg); lit. (T. L. Emmick et al., J. Am. Chem. Soc., 1968, 90, 3459) 102103° C. (0.2 mmHg). Yield 44.3 g (70%). 1H NMR (CDCl3) δ 7.57 (d, J=569 Hz, 1 H), 8.0-7.14 (m, 5 H), 4.13 (2 q, JH--H =7 Hz, JP-H =14 Hz, 2 H), 1.35 (t, J=7 Hz, 3H).

reactant | phenylphosphonous dichloride | 0.37 mol, 66 g | C1(=CC=CC=C1)P(Cl)Cl | C6H5Cl2P
reactant | ethanol | 0.37 mol, 21.6 mL | C(C)O | C2H6O
reactant | pyridine | 29.6 mL | N1=CC=CC=C1 | C5H5N
reactant | ether | 100 mL | CCOCC | C4H10O
product | Ethyl Diphenylphosphinite | C1(=CC=CC=C1)P(OCC)C1=CC=CC=C1 | C14H15OP
